US06291203B1
Synthesis of 3-(3-chloro-2-oxopropyl)-2-methylbenzothiazolium chloride (Compound 14)
A mixture of 2-methylbenzothiazole (10 g) and 40 mL 1,3-dichloroacetone is stirred at 120° C. for 24 hours. The resulting gummy solid is triturated with ethyl acetate several times. The resulting solid is collected by suction filtration and dried under vacuum. The product is used without further purification.

reactant | 2-methylbenzothiazole | 10 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 1,3-dichloroacetone | 40 mL | ClCC(=O)CCl | C3H4Cl2O
product | 3-(3-chloro-2-oxopropyl)-2-methylbenzothiazolium chloride | [Cl-].ClCC(C[N+]1=C(SC2=C1C=CC=C2)C)=O | InChI=1S/C11H11ClNOS.ClH/c1-8-13(7-9(14)6-12)10-4-2-3-5-11(10)15-8;/h2-5H,6-7H2,1H3;1H/q+1;/p-1
